US07304081B2
Step 2. 4-phenylpyrrolidin-3-ol
A mixture of benzyl 3-hydroxy-4-phenylpyrrolidine-1-carboxylate (125 mg, 0.000420 mol), palladium (25 mg, 0.000023 mol) in methanol (10 mL, 0.2 mol) was stirred under a H2 atmosphere (balloon with H2) over 2 hours. LCMS indicated that the starting material was consumed. The reaction mixture was filtered and the filtrate was concentrated to yield the product (62 mg). LCMS: m/z 163.9 (M+H+).

reactant | benzyl 3-hydroxy-4-phenylpyrrolidine-1-carboxylate | 0.000420 mol, 125 mg | OC1CN(CC1C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C18H19NO3
reactant | methanol | 0.2 mol, 10 mL | CO | CH4O
catalyst | palladium | 0.000023 mol, 25 mg | [Pd] | Pd
product | 4-phenylpyrrolidin-3-ol | 62 mg | C1(=CC=CC=C1)C1C(CNC1)O | C10H13NO
